US08202873B2
Add 3-bromo-2-chloro-pyridine (10.08 g, 52.4 mmol) to piperazine (45 g) and piperazine dihydrochloride (83.4 g). Heat the mixture to 190° C. with stirring for one hr. Allow the mixture to cool to about 80° C. then pour the material into water and extract 5 times with DCM. Dry the solution (sodium sulfate), filter and concentrate. Purify using silica gel chromatography, eluting with 15:85 methanol (with 2 M ammonia): DCM to give 1-(3-bromo-pyridin-2-yl)-piperazine as a white solid (8.98 g, 71%).

reactant | 3-bromo-2-chloro-pyridine | 52.4 mmol, 10.08 g | BrC=1C(=NC=CC1)Cl | C5H3BrClN
reactant | piperazine | 45 g | N1CCNCC1 | C4H10N2
reactant | piperazine dihydrochloride | 83.4 g | Cl.Cl.N1CCNCC1
solvent | water | O | H2O
product | 1-(3-bromo-pyridin-2-yl)-piperazine | 8.98 g, 71% | BrC=1C(=NC=CC1)N1CCNCC1 | C9H12BrN3
